US04428882
1-[2-(2-Hydroxyethylamino)ethylamino]-4-amino-5,8-dihydroxyanthraquinone monohydrochloride
To a stirred solution of 35 g. (0.10 mole) of 2,3-dihydro-1,4,5,8-tetrahydroxy-9,10-anthracenedione (80% pure) in 750 ml. of methyl cellosolve in an inert, closed atmosphere at 10° C. was slowly added 25 ml. (0.10 mole) of a 4.0 M solution of 2-(2-aminoethylamino)ethanol in methyl cellosolve. The temperature was allowed to rise slowly to 20° C. The solution was then slowly heated to 50° C. and to it was slowly added 75 ml. (0.11 mole) of a 2.2 M solution of ammonia in methyl cellosolve. The mixture was then stirred at 50° C. in this sealed atmosphere for 20 hours. The crude "leuco" intermediate was then filtered as a brown powder. The brown powder was suspended in 500 ml. of methyl cellosolve and oxidized by adding 12 g. (0.10 mole) of chloranil followed by 200 ml. (0.50 mole) of 2.5 N ethanolic hydrogen chloride. The mixture was stirred at 25° C. overnight and was filtered to give 18 g. of blue-black powder. A 7.5 g. portion of this powder was dissolved in 50 ml. of hot water and filtered through a pad of acid-washed Celite. To the hot filtrate was added 50 ml. of ethanol and 50 ml. of tetrahydrofuran. The mixture was cooled and filtered to give 4.4 g. of the desired product as purple-black crystals, mp 276°-280° C.

reactant | 2,3-dihydro-1,4,5,8-tetrahydroxy-9,10-anthracenedione | 0.10 mole | OC=1CCC(=C2C(C3=C(C=CC(=C3C(C12)=O)O)O)=O)O | C14H10O6
reactant | 2-(2-aminoethylamino)ethanol | NCCNCCO | C4H12N2O
reactant | ammonia | N | H3N
reactant | chloranil | 0.10 mole | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | hydrogen chloride | 0.50 mole, 2.5 N | Cl | ClH
solvent | methyl cellosolve | COCCO | C3H8O2
product | 1-[2-(2-Hydroxyethylamino)ethylamino]-4-amino-5,8-dihydroxyanthraquinone monohydrochloride | Cl.OCCNCCNC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)O)O)=O)N | InChI=1S/C18H19N3O5.ClH/c19-9-1-2-10(21-6-5-20-7-8-22)14-13(9)17(25)15-11(23)3-4-12(24)16(15)18(14)26;/h1-4,20-24H,5-8,19H2;1H
